US06974815B2
4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile (200 mg) (0.5 mmol) in DMF (6 ml) was carefully dropped on a suspension of NaH 60% (24.1 mg) (1.2 eq) in DMF (5 ml) at RT. The reaction mixture was stirred 1 h at RT then methyl iodide (0.095 ml) (3 eq) was added. After one night, the reaction mixture was poured on water and extracted with tBuOMe. The organic layer was washed with water, dried over Na2SO4, and concentrated to yield a solid which was washed with diisopropyl ether to give 4-[1-(3,5-Dichlorophenyl)-3-methyl-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile (115 mg) as a white solid. 1H NMR (CDCl3): 7.55 (2H, d), 7.25 (2H, d), 7.10 (1H, m), 6.75 (2H, m), 4.95 (1H, m), 3.10-3.0 (5H, m), 2.45-1.65 (6H, m).

reactant | 4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile | 0.5 mmol, 200 mg | ClC=1C=C(C=C(C1)Cl)N1C(NC2(C1=CCCC2)CC2=CC=C(C#N)C=C2)=O | C21H17Cl2N3O
reactant | NaH | 24.1 mg, 1.2 eq | [H-].[Na+]
reactant | methyl iodide | 0.095 ml, 3 eq | CI | CH3I
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[1-(3,5-Dichlorophenyl)-3-methyl-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile | 115 mg | ClC=1C=C(C=C(C1)Cl)N1C(N(C2(C1=CCCC2)CC2=CC=C(C#N)C=C2)C)=O | C22H19Cl2N3O
